US05998433
c) Synthesis of 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-5-phenylthiopentan-1-one hydrochloride
1-(2-Dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-5-phenylthiopentan-1-one 0.247 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. After this mixture was concentrated, the resulting product was recrystallized from diethyl ether-ethanol to yield the desired product.

reactant | 1-(2-Dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-5-phenylthiopentan-1-one | 0.247 g | CN(C)CC1=CC2=C(CN(CC2)C(CCCCSC2=CC=CC=C2)=O)O1 | C21H28N2O2S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-5-phenylthiopentan-1-one hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(CCCCSC2=CC=CC=C2)=O)O1 | InChI=1S/C21H28N2O2S.ClH/c1-22(2)15-18-14-17-11-12-23(16-20(17)25-18)21(24)10-6-7-13-26-19-8-4-3-5-9-19;/h3-5,8-9,14H,6-7,10-13,15-16H2,1-2H3;1H
